US08648066B2
To a solution of 5-{4-[6,7-bis(methyloxy)quinolin-4-yl]-2,3,4,5-tetrahydro-1,4-benzoxazepin-7-yl}pyridine-2,3-diamine (85 mg, 0.19 mmol) in acetic acid (3 mL) was added 1,3-bis(methoxycarbonyl)-2-methyl-2-thiopseudourea (40 mg, 0.19 mmol). The reaction mixture was heated (65° C.) for 18 h and then concentrated. The resulting residue was dissolved in acetonitrile and purified by preparative reverse phase HPLC to provide methyl (6-{4-[6,7-bis(methyloxy)quinolin-4-yl]-2,3,4,5-tetrahydro-1,4-benzoxazepin-7-yl}-1H-imidazo[4,5-b]pyridin-2-yl)carbamate (55 mg, 54% yield) as a white solid. 1H NMR (400 MHz, DMSO-D6): δ 7.93 (br, 2H), 7.93 (br, 1H), 7.78 (br, 1H), 7.59 (dd, 1h), 7.31 (s, 1H), 7.14 (dd, 1H), 7.09 (s, 1H), 6.95 (d, 1H), 4.60 (s, 2H), 4.43 (m, 2H), 3.89 (s, 3H), 3.78 (s, 3H), 3.73 (m, 2H), 3.53 (s, 3H), MS (EI) for C28H26N6O5: 527 (MH+).

reactant | 5-{4-[6,7-bis(methyloxy)quinolin-4-yl]-2,3,4,5-tetrahydro-1,4-benzoxazepin-7-yl}pyridine-2,3-diamine | 0.19 mmol, 85 mg | COC=1C=C2C(=CC=NC2=CC1OC)N1CCOC2=C(C1)C=C(C=C2)C=2C=C(C(=NC2)N)N | C25H25N5O3
reactant | 1,3-bis(methoxycarbonyl)-2-methyl-2-thiopseudourea | 0.19 mmol, 40 mg | COC(=O)NC(SC)=NC(=O)OC | C6H10N2O4S
solvent | acetic acid | 3 mL | C(C)(=O)O | C2H4O2
product | methyl (6-{4-[6,7-bis(methyloxy)quinolin-4-yl]-2,3,4,5-tetrahydro-1,4-benzoxazepin-7-yl}-1H-imidazo[4,5-b]pyridin-2-yl)carbamate | 55 mg, 54% yield | COC=1C=C2C(=CC=NC2=CC1OC)N1CCOC2=C(C1)C=C(C=C2)C=2C=C1C(=NC2)N=C(N1)NC(OC)=O | C28H26N6O5
